US04436753
To 30 ml of a solution of 3 g of methyl 22-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)docosanoate in tetrahydrofuran is added lithium aluminum hydride, and the mixture is stirred at room temperature for 1 hour. To the reaction mixture is added 10% sulfuric acid under ice cooling, and the whole mixture is extracted with ether. The extract is washed with water and dried, and then the solvent is distilled off under reduced pressure to give colorless crystals of 6-(22-hydroxydocosyl)-2,3-dimethoxy-5-methylphenol.

reactant | methyl 22-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)docosanoate | 3 g | OC1=C(C(=CC(=C1OC)OC)C)CCCCCCCCCCCCCCCCCCCCCC(=O)OC | C32H56O5
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(22-hydroxydocosyl)-2,3-dimethoxy-5-methylphenol | OCCCCCCCCCCCCCCCCCCCCCCC1=C(C=C(C(=C1O)OC)OC)C | C31H56O4
